US09340547B2
a) (S)-tert-Butyl 4,4-difluoro-2-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylcarbamoyl)pyrrolidine-1-carboxylate
1-Amino-N-phenyl-1H-pyrrole-2-carboxamide (500 mg, 2.48 mmol), (S)-1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid (687 mg, 2.73 mmol), HATU (1.04 g, 2.73 mmol) and diisopropylethylamine (476 μl, 2.73 mmol) were dissolved in a mixture of 6 mL of dichloromethane and 6 mL of DMF and stirred at room temperature overnight. The dichloromethane was removed under vacuum and 25 mL of water were poured over the remaining solution. A precipitated appeared and the suspension was stirred overnight. The solid was filtered and washed with water to furnish 1.05 g (97% yield) of the title compound.

reactant | 1-Amino-N-phenyl-1H-pyrrole-2-carboxamide | 2.48 mmol, 500 mg | NN1C(=CC=C1)C(=O)NC1=CC=CC=C1 | C11H11N3O
reactant | (S)-1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid | 2.73 mmol, 687 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)(F)F)C(=O)O | C10H15F2NO4
reactant | HATU | 2.73 mmol, 1.04 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2.73 mmol, 476 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (S)-tert-Butyl 4,4-difluoro-2-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylcarbamoyl)pyrrolidine-1-carboxylate | 1.05 g, 97% yield | FC1(C[C@H](N(C1)C(=O)OC(C)(C)C)C(NN1C(=CC=C1)C(NC1=CC=CC=C1)=O)=O)F | C21H24F2N4O4
